US06277878B1
4-Methoxy-2-pyridinecarbonitrile:
The title compound was prepared from 4-methoxypiridine-N-oxide by using the procedure described for the preparation of 4-chloro-2-pyridinecarbonitrile.

reactant | 4-methoxypiridine-N-oxide | COC1=CC=[N+](C=C1)[O-] | C6H7NO2
reactant | 4-chloro-2-pyridinecarbonitrile | ClC1=CC(=NC=C1)C#N | C6H3ClN2
product | 4-Methoxy-2-pyridinecarbonitrile | COC1=CC(=NC=C1)C#N | C7H6N2O
